US04125729
Methyl (3-biphenyloxy)[ p-(p-chlorophenoxy)phenyl]acetate
In a similar manner as in Example 39, 7.11 g of methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl]acetate is reacted with 4.25 g of 3-phenylphenol in methanol to give a yellow oil, which is subjected to fractional bulb-to-bulb distillation (175°-178° C at 0.02 mm) to remove volatile impurities. The glassy residue is subjected to filtration through 200 g of silica gel (benzene) and concentration to yield the product as an orange foam.

reactant | methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl]acetate | 7.11 g | BrC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C15H12BrClO3
reactant | 3-phenylphenol | 4.25 g | C1(=CC=CC=C1)C=1C=C(C=CC1)O | C12H10O
solvent | methanol | CO | CH4O
product | Methyl (3-biphenyloxy)[ p-(p-chlorophenoxy)phenyl]acetate | C1(=CC(=CC=C1)OC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl)C1=CC=CC=C1 | C27H21ClO4
